US05506219
A mixture of 3-hydroxy-4-methyl-1-phenyl-1-pentanone (8.400 gm, 43.7 mmol) and p-toluenesulfonic acid (820 mg, 4.3 mmol) in benzene (210 ml) was refluxed in a Dean-Stark apparatus for 10 minutes. The solution was cooled, diluted with Et2O, and washed with saturated NaHCO3 and brine. Filtration and removal of the solvent afforded a yellow oil which was subsequently distilled (P=2.0 mm, 97°-100° C.) to give the (E)-4-methyl-1-phenyl-2-penten-1-one (6.94 gm) as a colorless liquid. 1H-NMR analysis showed the distillate to be 78% the desired product and 22% the β, δ-unsaturated isomer. The material was used directly for the next reaction.

reactant | 3-hydroxy-4-methyl-1-phenyl-1-pentanone | 43.7 mmol, 8.400 gm | OC(CC(=O)C1=CC=CC=C1)C(C)C | C12H16O2
reactant | p-toluenesulfonic acid | 4.3 mmol, 820 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 210 ml | C1=CC=CC=C1 | C6H6
solvent | Et2O | CCOCC | C4H10O
product | (E)-4-methyl-1-phenyl-2-penten-1-one | 6.94 gm | CC(/C=C/C(=O)C1=CC=CC=C1)C | C12H14O
